US06949579B2
N-[6-(4-chlorophenyl)-1H-indazol-3-yl]butanamide
9.5 cm3 of tetrabutylammonium fluoride as a 1M solution in tetrahydrofuran are added to a solution of 600 mg of N-[6-(4-chlorophenyl)-1-[[2-(trimethylsilyl)ethoxy]-methyl]-1H-indazol-3-yl]butanamide, prepared previously, in 20 cm3 of tetrahydrofuran, the reaction medium is then heated at about 65° C. for 18 hours and the heating is stopped to add 40 cm3 of ethyl acetate. The organic phase is washed with 2×30 cm3 of saturated aqueous sodium hydrogen carbonate solution and then with 30 cm3 of saturated aqueous sodium chloride solution. The organic phase is dried over magnesium sulphate, filtered and evaporated under reduced pressure (2 kPa; 50° C.). After drying (90 Pa; 50° C.), 238 mg of N-[6-(4-chlorophenyl)-1H-indazol-3-yl]butanamide are obtained in the form of a beige-coloured powder.

reactant | tetrabutylammonium fluoride | 9.5 cm3 | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | N-[6-(4-chlorophenyl)-1-[[2-(trimethylsilyl)ethoxy]-methyl]-1H-indazol-3-yl]butanamide | 600 mg | ClC1=CC=C(C=C1)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O | C23H30ClN3O2Si
reactant | ethyl acetate | 40 cm3 | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 cm3 | O1CCCC1 | C4H8O
product | N-[6-(4-chlorophenyl)-1H-indazol-3-yl]butanamide | ClC1=CC=C(C=C1)C1=CC=C2C(=NNC2=C1)NC(CCC)=O | C17H16ClN3O
